US06613942B1
Preparation of 4-(2-Tetrahydropyranylmethoxy)-1-naphthaldehyde
A mixture of 4-hydroxynaphthaldehyde (1 g, 5.8 mmol), 2-bromomethyl tetrahydropyran (1 g, 5.8 mmol) and powdered K2CO3 (1.2 g, 8.7 mmol) in dimethyl formamide was stirred at 60° C. overnight. The mixture was taken up in water and ethyl acetate. The organic layer was separated and washed with water, brine, dried over MgSO4, filtered, and concentrated. The product was purified by silica gel column chromatography using ethyl acetate/hexane.

reactant | 4-hydroxynaphthaldehyde | 5.8 mmol, 1 g | OC1=CC=C(C2=CC=CC=C12)C=O | C11H8O2
reactant | 2-bromomethyl tetrahydropyran | 5.8 mmol, 1 g | BrCC1OCCCC1 | C6H11BrO
reactant | K2CO3 | 8.7 mmol, 1.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-Tetrahydropyranylmethoxy)-1-naphthaldehyde | O1C(CCCC1)COC1=CC=C(C2=CC=CC=C12)C=O | C17H18O3
